US07786165B2
To a solution of ethyl 3-(2-fluoro-4-{[4-(4-hydroxy-2,6-dimethylphenyl)-2,3-dihydro-1H-inden-1-yl][(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate (0.698 g, 1.1 mmol) in N,N-dimethylformamide (8 mL) were added 1-oxa-6-thiaspiro[2.5]octane (0.286 g, 2.20 mmol) and potassium carbonate (0.304 g, 2.20 mmol) under stirring at room temperature, and the mixture was stirred at 80° C. for 16 hr. To the reaction mixture were added reagents (1-oxa-6-thiaspiro[2.5]octane and potassium carbonate) in the same amount as mentioned above. After stirring for 8 hr, reagents (1-oxa-6-thiaspiro[2.5]octane and potassium carbonate) in twice the above-mentioned amount were added and the mixture was stirred for 16 hr. After cooling the reaction mixture, water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (10%-80% ethyl acetate/hexane) to give ethyl 3-(2-fluoro-4-{(4-{4-[(4-hydroxytetrahydro-2H-thiopyran-4-yl)methoxy]-2,6-dimethylphenyl}-2,3-dihydro-1H-inden-1-yl)[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate as a yellow oil. To the obtained oil dissolved in ethyl acetate (15 mL) was added m-chloroperbenzoic acid (70%, 0.459 g, 1.86 mmol) under stirring at 0° C., and the mixture was stirred at the same temperature for 3 hr. The reaction mixture was washed with saturated brine and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (15%-90% ethyl acetate/hexane) to give the title compound (0.426 g, yield 72%, 2 steps) as a colorless oil.

reactant | ethyl 3-(2-fluoro-4-{[4-(4-hydroxy-2,6-dimethylphenyl)-2,3-dihydro-1H-inden-1-yl][(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate | 1.1 mmol, 0.698 g | FC1=C(C=CC(=C1)N(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C1CCC2=C(C=CC=C12)C1=C(C=C(C=C1C)O)C)CCC(=O)OCC | C34H33FN2O7S
reactant | 1-oxa-6-thiaspiro[2.5]octane | 2.20 mmol, 0.286 g | O1CC12CCSCC2 | C6H10OS
reactant | potassium carbonate | 2.20 mmol, 0.304 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | ethyl 3-(2-fluoro-4-{(4-{4-[(4-hydroxytetrahydro-2H-thiopyran-4-yl)methoxy]-2,6-dimethylphenyl}-2,3-dihydro-1H-inden-1-yl)[(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate | FC1=C(C=CC(=C1)N(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C1CCC2=C(C=CC=C12)C1=C(C=C(C=C1C)OCC1(CCSCC1)O)C)CCC(=O)OCC | C40H43FN2O8S2
